US08283353B2
4′-({4-[cis-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A solution of 2-methyl-1-{[4-(1H-1,2,4-triazol-3-ylamino)cyclohexyl]oxy}propan-2-ol (2.80 g) and ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (7.69 g) in 1,2,4-trichlorobenzene (15 mL) was stirred at 195° C. for 2 days. The reaction mixture was cooled to room temperature, and purified by silica gel chromatography [eluent: hexane/ethyl acetate=70/30→50/50 (volume ratio)] to give the title compound as a brown amorphous compound (620 mg, 10%).

reactant | 2-methyl-1-{[4-(1H-1,2,4-triazol-3-ylamino)cyclohexyl]oxy}propan-2-ol | 2.80 g | CC(COC1CCC(CC1)NC1=NNC=N1)(C)O | C12H22N4O2
reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 7.69 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
solvent | 1,2,4-trichlorobenzene | 15 mL | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
product | 4′-({4-[cis-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | OC(CO[C@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)(C)C | C32H37N5O3
